Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Right shoulder pain
 
Major Surgical or Invasive Procedure:
ORIF Right proximal humerus ___ ___

 
History of Present Illness:
___ s/p fall with right proximal humerus fracture dislocation 
now s/p open reduction ___ ___.
 
Past Medical History:
HLD, headaches. Prior ACDF in ___. No bleeding/clotting
disorders. No issues with anesthesia in the past 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
General: no acute distress
CV: well-perfused
Resp: non-labored
Abd: non-distended
Extremities: well-perfused

Right upper extremities:
sling in place
Sensation intact to light touch
Fires Bi, Tri, EDC, EPL/FPL, FDS/FDP
well-perfused
 
Pertinent Results:
___ 02:52AM BLOOD WBC-12.6* RBC-3.55* Hgb-11.8 Hct-34.6 
MCV-98 MCH-33.2* MCHC-34.1 RDW-11.9 RDWSD-42.4 Plt ___
___ 06:15AM BLOOD WBC-10.9* RBC-2.86* Hgb-9.5* Hct-28.5* 
MCV-100* MCH-33.2* MCHC-33.3 RDW-11.9 RDWSD-43.6 Plt ___
___ 02:52AM BLOOD Glucose-109* UreaN-17 Creat-0.6 Na-135 
K-4.0 Cl-101 HCO3-17* AnGap-21*
___ 06:15AM BLOOD Glucose-127* UreaN-9 Creat-0.6 Na-138 
K-3.7 Cl-102 HCO___* AnGap-___
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have Right proximal humerus fracture and was admitted to the 
orthopedic surgery service. The patient was taken to the 
operating room on ___ for ORIF Right proximal humerus 
fracture (___), which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to home with outpatient ___ was 
appropriate. 

Patient underwent CT RUE to assess congruency of Right 
glenohumeral joint on day of discharge which revealed humeral 
head was located. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding spontaneously. The patient is NWB/No ROM in 
the Right upper extremity in simple sling, and will be 
discharged on Aspirin 325mg qd for DVT prophylaxis. The patient 
will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
Take as directed and use Oxycodone for severe pain not relieved 
by Acetaminophen. 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours as 
needed Disp #*100 Tablet Refills:*1 
2.  Aspirin EC 325 mg PO DAILY 
Take for 4 weeks post-operatively to prevent blood clots. 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*28 Tablet 
Refills:*0 
3.  Diazepam 5 mg PO ONCE Duration: 1 Dose 
Don't take before driving, operating machinery, or with alcohol. 

RX *diazepam 5 mg 1 tablet by mouth every 12 hours as needed 
Disp #*10 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
This is a new medication to prevent post-operative constipation. 
Hold for diarrhea or loose stools.  
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*40 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Don't take before driving, operating machinery, or with alcohol. 

RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours as 
needed Disp #*40 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID 
This is a new medication to prevent post-operative constipation. 
Hold for diarrhea or loose stools.  
RX *sennosides [senna] 8.6 mg 2 tablet by mouth every evening 
Disp #*40 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right proximal humerus fracture-dislocation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Nonweightbearing of Right arm. Keep in sling. Range of motion 
ok at elbow and wrist. Ok to come out of sling temporarily for 
ROM exercises of elbow and wrist. No range of motion of shoulder 
until otherwise directed by Dr. ___.

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Aspirin 325mg daily for 4 weeks post-operatively 
to prevent blood clots.

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
-Surgical dressing may be removed in 48 hours. Dressing may be 
changed as needed with dry sterile dressing and tape. 

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

FOLLOW UP:
Please follow up with Dr. ___ in the ___ Trauma 
Clinic ___ days post-operation for evaluation. Please call 
___ to schedule appointment.

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.

Physical Therapy:
Non-weightbearing RUE, NO RANGE OF MOTION of shoulder until 
otherwise directed at follow-up. Sling should remain in place, 
but ok to come out of sling temporarily for ROM exercises of 
elbow and wrist. ROMAT at Right elbow and wrist. 
Treatments Frequency:
Dressing may be changed as needed with dry sterile dressing and 
tape. Surgical dressing may be removed in 48 hours. 
 
Followup Instructions:
___